### PR TITLE
feat(Data/Fintype/Pi): Make `Fintype` instance for `RelHom`s computable

### PR DESCRIPTION
**Pull request by plp127**
Makes the `Fintype` instance for rel homs computable.

See this [Zulip](https://leanprover.zulipchat.com/#narrow/channel/113489-new-members/topic/Classical.20vs.20constructive.20logic.20in.20computation/near/496220816) message.

---

- [x] depends on: #24748

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean [hunk 1]
```diff
@@ -542,23 +542,23 @@ lemma comap_symm_apply (f : V ≃ W) (G : SimpleGraph W) (w : W) :
...
-  { f with map_rel_iff' := by simp }
-
-@[simp]
-lemma map_apply (f : V ≃ W) (G : SimpleGraph V) (v : V) :
-    SimpleGraph.Iso.map f G v = f v := rfl
-
-@[simp]
-lemma map_symm_apply (f : V ≃ W) (G : SimpleGraph V) (w : W) :
-    (SimpleGraph.Iso.map f G).symm w = f.symm w := rfl
+@[simps]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Maps.lean:545]: Does this produce the exactly correct `map_apply`?

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 2]
```diff
@@ -113,21 +113,92 @@ theorem Coloring.not_adj_of_mem_colorClass {c : α} {v w : V} (hv : v ∈ C.colo
...
+    fun _ _ ↦ ⟨{coloringOfIsEmpty}, by simp [RelHom.ext_iff]⟩
+  | n + 1 => fun G _ ↦ by
+    -- pair the valid colorings previously obtained with all possible choices for the new color
+    refine ⟨(@univ _ (@instFintypeProd _ _ finColoringFintype _)).filterMap
+      (fun p : (G.comap castSucc).Coloring (Fin m) × Fin m ↦ ?_) ?_, ?_⟩
+    · -- case on whether this is a valid coloring
+      by_cases h : ∀ a, G.Adj a.castSucc (Fin.last n) → p.fst a ≠ p.snd
+      · -- valid, so add
+        apply some
+        apply Coloring.mk (snoc p.fst p.snd)
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:149]: This part is doing `by_cases` in order to construct data. Can we modify this to an if/else or (preferably, but maybe less nicely) a match? I'm happy for the stuff currently on lines 150-155 to remain in tactic mode though

Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:149]: `by_cases` is just a macro that `refine`s a dependent if-then-else, but writing it in explicitly is fine too.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 1 above)
Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:545]: 70% sure it does but I'll check anyways

Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:545]: The binder name for the argument is changed to `a` and `map_symm_apply` ends up using `RelIso.symm` instead of `SimpleGraph.Iso.symm` but otherwise they're the same.

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 2 above)
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:149]: The problem is that it opens classical before that dite, and so it's not clear to me that this will reduce nicely...

Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:149]: It opens `classical` only after it tries it without opening `classical`

Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:149]: hmmm.. After reading the code for `by_cases` it looks like this is not actually the case.

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 3]
```diff
@@ -113,21 +113,92 @@ theorem Coloring.not_adj_of_mem_colorClass {c : α} {v w : V} (hv : v ∈ C.colo
...
+  | n + 1 => fun G _ ↦ by
+    -- pair the valid colorings previously obtained with all possible choices for the new color
+    refine ⟨(@univ _ (@instFintypeProd _ _ finColoringFintype _)).filterMap
+      (fun p : (G.comap castSucc).Coloring (Fin m) × Fin m ↦ ?_) ?_, ?_⟩
+    · -- case on whether this is a valid coloring
+      refine if h : ∀ a, G.Adj a.castSucc (Fin.last n) → p.fst a ≠ p.snd then ?_ else ?_
+      · -- valid, so add
+        apply some
+        apply Coloring.mk (snoc p.fst p.snd)
+        intro v w hAdj
```
Comment (IvanRenison) [inline Mathlib/Combinatorics/SimpleGraph/Coloring.lean:150]:
```suggestion
        intro v w hadj
```

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean [hunk 4]
```diff
@@ -113,21 +113,92 @@ theorem Coloring.not_adj_of_mem_colorClass {c : α} {v w : V} (hv : v ∈ C.colo
...
+open Option Finset Fin Fintype Equiv
+
+-- We show a `Fintype` instance for `Fin n` taking colors in `Fin m`,
+-- and then transfer this to arbitrary finite types using
+-- `Fintype.truncFinBijection` and `Fintype.truncEquivFin`.
+
+-- For performance reasons, the fintype of colorings is constructed inductively
+-- instead of simply filtering all coloring for valid ones.
+private def finColoringFintype {n m} {G : SimpleGraph (Fin n)} [DecidableRel G.Adj] :
+    Fintype (G.Coloring (Fin m)) :=
```
[the remark this answers is not in the document]
Comment (b-mehta) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:133]: In fact it should also work for rel homs. And now that I think about it, this one will actually a make a diamond for fintype! So it seems like you'll either need to make this a non-instance, or generalise it to rel homs.

**Review by b-mehta — APPROVED** [review]
The implementation here is very nice, good work!

File: Mathlib/Combinatorics/SimpleGraph/Coloring.lean (hunk 4 above)
[the remark this answers is not in the document]
Comment (plp127) [reply Mathlib/Combinatorics/SimpleGraph/Coloring.lean:133]: Ran into an issue so I asked a question on [Zulip](https://leanprover.zulipchat.com/#narrow/channel/270676-lean4/topic/Instance.20hypotheses.20in.20instance.20parameter)

File: Mathlib/Data/Fintype/Pi.lean [hunk 5]
```diff
@@ -154,10 +154,85 @@ noncomputable instance _root_.Function.Embedding.fintype {α β} [Fintype α] [F
...
+-- `Fintype.truncFinBijection` and `Fintype.truncEquivFin`.
+
+-- For performance reasons, the fintype of colorings is constructed inductively
+-- instead of simply filtering all coloring for valid ones.
+private def finHomFintype {n m} {r : Fin n → Fin n → Prop} {s : Fin m → Fin m → Prop}
+    [DecidableRel r] [DecidableRel s] : Fintype (r →r s) :=
+  -- induct on the number of vertices
+  r |> match (motive :=
+    ∀ n (r : Fin n → Fin n → Prop) [DecidableRel r],
+      Fintype (r →r s)) n with
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Pi.lean:172]: Why isn't the automatic motive sufficient?

Comment (eric-wieser) [reply Mathlib/Data/Fintype/Pi.lean]: Answer: it's the same as the "`induction` fails on typeclass arguments" thing

File: Mathlib/Data/Fintype/Pi.lean [hunk 6]
```diff
@@ -154,10 +154,97 @@ noncomputable instance _root_.Function.Embedding.fintype {α β} [Fintype α] [F
...
+  simp_rw [← DFunLike.coe_injective.eq_iff, coe_snoc, Fin.snoc_injective2.eq_iff]
+
+-- We show a `Fintype` instance for a hom from `Fin n` to `Fin m`,
+-- and then transfer this to arbitrary finite types using
+-- `Fintype.truncFinBijection` and `Fintype.truncEquivFin`.
+
+-- For performance reasons, the fintype of colorings is constructed inductively
+-- instead of simply filtering all coloring for valid ones.
+-- Note: `inst` is not a typeclass argument because `match` does not generalize these correctly.
+private def finHomFintype {n m} [Fintype m] {r : Fin n → Fin n → Prop} {s : m → m → Prop}
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Pi.lean:196]: @plp127, it turns out that you didn't use the fact that the range was `Fin m` here, so I generalized this

File: Mathlib/Data/Fintype/Pi.lean [hunk 7]
```diff
@@ -154,10 +154,97 @@ noncomputable instance _root_.Function.Embedding.fintype {α β} [Fintype α] [F
...
+        cases i using Fin.lastCases <;> simp }
+
+instance RelHom.instFintype {α β} {r : α → α → Prop} {s : β → β → Prop}
+    [Fintype α] [Fintype β] [DecidableEq α] [DecidableRel r]
+    [∀ a b [Decidable (a = b)], Decidable (s a b)] :
+    Fintype (r →r s) :=
+  (truncFinBijection β).recOnSubsingleton fun ⟨b, hb⟩ ↦
+    (truncEquivFin α).recOnSubsingleton fun a ↦
+      haveI (x y) : Decidable (b x = b y) := decidable_of_iff (x = y) hb.injective.eq_iff.symm
+      haveI : DecidableRel (b ⁻¹'o s) := fun x y => inferInstanceAs (Decidable (s (b x) (b y)))
```
Comment (eric-wieser) [inline Mathlib/Data/Fintype/Pi.lean:235]: I'm a little confused by what's going on with this; it looks like you're somehow transporting to `Fin n` to avoid needing a decidability argument? Note that due to my refactor above, there is now no other reason to do this transport!

Comment (eric-wieser) [reply Mathlib/Data/Fintype/Pi.lean:235]: Could you explain the unusual argument in the docstring?

**Comment by leanprover-community-bot-assistant** [comment]
This pull request has conflicts, please merge `master` and resolve them.

File: Mathlib/Combinatorics/SimpleGraph/Maps.lean (hunk 1 above)
Comment (eric-wieser) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:558]: Tagging @fpvandoorn since this change removes their suggestion.

Comment (fpvandoorn) [reply Mathlib/Combinatorics/SimpleGraph/Maps.lean:558]: I have no memory of this comment, which might be outdated. This seems good to me.

**Comment by eric-wieser** [comment]
As mentioned on Zulip, I'd like to split this PR to separate the unusual decidability changes from a more typical instance. I'll take care of the conflicts.

**Comment by b-mehta** [comment]
Can you add a link to the zulip thread here?

**Comment by plp127** [comment]
@eric-wieser I think we're waiting for you

**Comment by joneugster** [comment]
Mathlib has moved to PRs from forks. This PR is still from a branch of the main repository and will soon be closed! Please migrate the content to a fork and reopen a PR from there if you wish to do so. See [Zulip topic](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/all.20future.20PRs.20should.20be.20made.20from.20forks/with/624081853) for more instructions. Thank you for contributing to mathlib!
